US07491716B2
(Imidazo[1,2-a]pyridin-5-yl)oxoacetic acid ethyl ester
Add Mg turnings (0.25 g, 9.95 mmol) to a solution of 5-Bromoimidazo[1,2-a]pyridine (1.5 g, 7.65 mmol) in tetrahydrofuran (20 ml). Heat the reaction to 60° C. and add bromoethane (1.2 ml, 11.1 mmol). Reflux for another 0.5 hours, cool and cannula dropwise into a solution of diethyl oxalate (5 ml) in tetrahydrofuran (5 ml) at −15° C. Stir at −15° C. for 0.5 hours and at room temperature for 0.5 hours. Quench the reaction by adding pH 7 buffer, extract into ethyl acetate, wash with saturated sodium chloride, dry over magnesium sulfate, and concentrate under reduced pressure. Purification by flash chromatography, eluting with ethyl acetate:hexane:methanol gradient gives the title compound as a light brown oil.

reactant | 5-Bromoimidazo[1,2-a]pyridine | 7.65 mmol, 1.5 g | BrC1=CC=CC=2N1C=CN2 | C7H5BrN2
reactant | bromoethane | 11.1 mmol, 1.2 ml | BrCC | C2H5Br
reactant | diethyl oxalate | 5 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (Imidazo[1,2-a]pyridin-5-yl)oxoacetic acid ethyl ester | C(C)OC(C(=O)C1=CC=CC=2N1C=CN2)=O | C11H10N2O3
